US09145441B2
Compound 91f: (S)-1-[(2S,3R)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
(S)-1-[(2S,3R)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.02 g, 1.27 mmol) was dissolved in dichloromethane (10 mL), under an atmosphere of nitrogen and cooled using an ice bath before adding trimethylsilyl trifluoromethanesulfonate (173 μL, 1.91 mmol). The reaction mixture was stirred for 1 h before adding N,N-diisopropylethylamine (885 μL, 5.08 mmol) and removing all volatiles. The residue was redissolved, along with (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid (498 mg, 1.52 mmol) in anhydrous acetonitrile (10 mL). The solution was cooled using an ice bath, before adding 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (677 mg, 1.78 mmol) and N,N-diisopropylethylamine (885 μL, 5.08 mmol). The reaction mixture was allowed to slowly warm to room temperature and left to stir overnight. The solvent was evaporated and the remaining residue was purified by silica gel chromatography using a stepwise gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to afford the title compound (671 mg, 53%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 1.00-1.05 (m, 6H), 1.07 (s, 9H), 1.10 (d, J=6.0 Hz, 3H), 1.15-1.20 (m, 1H), 1.51 (s, 6H), 1.61 (s, 3H), 1.69 (d, J=6.7 Hz, 3H), 1.74-1.93 (m, 2H), 2.18 (s, 3H), 2.64-2.81 (m, 2H), 3.45 (d, J=11.2 Hz, 1H), 4.02-4.10 (m, 1H), 4.48 (dd, J=8.0, 5.6 Hz, 1H), 4.74 (ABq, Δδ=0.23, JAB=11.8 Hz, 2H), 5.12 (d, J=9.4 Hz, 1H), 6.06 (q, J=6.7 Hz, 1H), 6.54 (d, J=8.0 Hz, 1H), 6.59-6.82 (m, 3H), 7.35-7.50 (m, 7H), 7.58-7.66 (m, 3H), 7.67-7.77 (m, 3H), 8.04 (s, 1H), 8.11 (d, J=8.4 Hz, 1H). LCMS (m/z) 1010.5 [M+H], Tr=3.80 min.

reactant | (S)-1-[(2S,3R)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.27 mmol, 1.02 g | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C37H53Cl3N4O7Si
reactant | trimethylsilyl trifluoromethanesulfonate | 1.91 mmol, 173 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N,N-diisopropylethylamine | 5.08 mmol, 885 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid | 1.52 mmol, 498 mg | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C | C19H21NO4
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.78 mmol, 677 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.08 mmol, 885 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-1-[(2S,3R)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 671 mg, 53% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C51H64Cl3N5O8Si
